### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Angle/Sphere): unoriented law of sines with circumradius

### PR DESCRIPTION
**Pull request by jsm28**
We have the law of sines involving the circumradius for oriented angles in `Mathlib.Geometry.Euclidean.Angle.Sphere`, and for unoriented angles in a form not involving the circumradius in `Mathlib.Geometry.Euclidean.Triangle`. Add a version involving the circumradius but with unoriented angles, deduced from the oriented angles version via moving to a two-dimensional subspace and picking an orientation.

---

- [ ] depends on: #32001
- [ ] depends on: #32002

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 1]
```diff
@@ -398,6 +402,37 @@ theorem mem_circumsphere_of_two_zsmul_oangle_eq {t : Triangle ℝ P} {p : P} {i
     h₂']
   exact Simplex.mem_circumsphere _ _
 
+end Oriented
+
+/-- The circumradius of a triangle may be expressed explicitly as half the length of a side
+divided by the sine of the angle at the third point (a version of the law of sines or sine rule). -/
+theorem dist_div_sin_angle_div_two_eq_circumradius (t : Triangle ℝ P) {i₁ i₂ i₃ : Fin 3}
+    (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃) (h₂₃ : i₂ ≠ i₃) : dist (t.points i₁) (t.points i₃) /
+      Real.sin (∠ (t.points i₁) (t.points i₂) (t.points i₃)) / 2 = t.circumradius := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: I find line break at equality slightly preferable:
```suggestion
    (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃) (h₂₃ : i₂ ≠ i₃) :
    dist (t.points i₁) (t.points i₃) / Real.sin (∠ (t.points i₁) (t.points i₂) (t.points i₃)) / 2 =
      t.circumradius := by
```

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 2]
```diff
@@ -398,6 +402,37 @@ theorem mem_circumsphere_of_two_zsmul_oangle_eq {t : Triangle ℝ P} {p : P} {i
...
+  let S : AffineSubspace ℝ P := affineSpan ℝ (Set.range t.points)
```
Comment (ocfnash) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]:
```suggestion
  set S : AffineSubspace ℝ P := affineSpan ℝ (Set.range t.points) with hS
```

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 3]
```diff
@@ -398,6 +402,37 @@ theorem mem_circumsphere_of_two_zsmul_oangle_eq {t : Triangle ℝ P} {p : P} {i
...
+  let t' : Triangle ℝ S := t.restrict S le_rfl
+  have hf2 : Fact (finrank ℝ S.direction = 2) := ⟨by
+    simp_rw [S]
+    rw [direction_affineSpan, t.independent.finrank_vectorSpan]
```
Comment (ocfnash) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]:
```suggestion
    rw [hS, direction_affineSpan, t.independent.finrank_vectorSpan]
```

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 4]
```diff
@@ -398,6 +402,37 @@ theorem mem_circumsphere_of_two_zsmul_oangle_eq {t : Triangle ℝ P} {p : P} {i
...
+    congr
+  · simp [t']
+
+/-- Twice the circumradius of a triangle may be expressed explicitly as the length of a side
+divided by the sine of the angle at the third point (a version of the law of sines or sine rule). -/
+theorem dist_div_sin_angle_eq_two_mul_circumradius (t : Triangle ℝ P) {i₁ i₂ i₃ : Fin 3}
+    (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃) (h₂₃ : i₂ ≠ i₃) : dist (t.points i₁) (t.points i₃) /
+      Real.sin (∠ (t.points i₁) (t.points i₂) (t.points i₃)) = 2 * t.circumradius := by
+  rw [← t.dist_div_sin_angle_div_two_eq_circumradius h₁₂ h₁₃ h₂₃]
+  ring
```
Comment (ocfnash) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean:434]: I don't think we should have both this and the lemma above. I don't mind which version we keep but it should be just one.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 5]
```diff
@@ -398,6 +402,37 @@ theorem mem_circumsphere_of_two_zsmul_oangle_eq {t : Triangle ℝ P} {p : P} {i
     h₂']
   exact Simplex.mem_circumsphere _ _
 
+end Oriented
+
+/-- The circumradius of a triangle may be expressed explicitly as half the length of a side
+divided by the sine of the angle at the third point (a version of the law of sines or sine rule). -/
+theorem dist_div_sin_angle_div_two_eq_circumradius (t : Triangle ℝ P) {i₁ i₂ i₃ : Fin 3}
```
Comment (ocfnash) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean:409]: I wonder if a more convenient statement might be:
```lean
theorem dist_div_sin_angle_div_two_eq_circumradius (p₁ p₂ p₃ : P)
    (h : AffineIndependent ℝ ![p₁, p₂, p₃]) :
    dist p₁ p₃ / Real.sin (∠ p₁ p₂ p₃) / 2 = (Simplex.mk ![p₁, p₂, p₃] h).circumradius :=
```

**Review by ocfnash — APPROVED** [review]
Thanks! Some suggestions which I'm happy to let you decide.

bors d+

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 4 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean:434]: The argument for both is that (a) a different lemma is convenient depending on which direction you are rewriting in (if you have `circumradius`, you want a version that doesn't multiply that by 2; if you have distance and sine but not 2, this one is more convenient) and (b) the API parallels that for oriented angles which, for the reason above, has both versions.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 5 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean:409]: If you have a `Triangle` given, this seems less convenient in general since writing such an expression with the vertices won't be defeq to one with the `Triangle` involved. If you're given the vertices, not the triangle, this would be defeq but is also more analogous to the lemma `dist_div_sin_oangle_div_two_eq_radius` rather than the ones in this PR (full analogues of `dist_div_sin_oangle_div_two_eq_radius` and `dist_div_sin_oangle_eq_two_mul_radius`, not involving `circumradius`, would be complicated by the additional requirement, for the center of the sphere to lie in the affine span of the three points, however).
